US07105507B2
1,1-Dimethylethyl 4-(Hydroxymethyl)-4-(3-hydroxypropyl)-1-piperidinecarboxylate
Lithium borohydride (500 mg, 22.7 mmol) was added to a solution of 1-(1,1-dimethylethyl) 4-phenylmethyl 4-(3-hydroxypropyl)-1,4-piperidinedicarboxylate (Description 136, 1.05 g, 2.79 mmol) in tetrahydrofuran/toluene (50:50, 20 mL). and the mixture was stirred at 60° C. for 4 hours. The mixture was cooled and hydrochloric acid (2M, 10 mL) was added. The mixture was poured into aqueous sodium carbonate (10%, 100 mL) and extracted with ethyl acetate (3×50 mL). The combined organic fractions were dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with EtOAc/MeOH (100:0 increasing to 95:5) to give the title compound (563 mg, 74%). 1H NMR (400 MHz, CDCl3) δ 3.67 (2H, t, J 7 Hz), 3.48 (2H, s), 3.47–3.40 (2H, m), 3.35–3.25 (2H, m), 1.7 (2H, br s), 1.6–1.3 (8H, m), and 1.44 (9H, s).

reactant | Lithium borohydride | 22.7 mmol, 500 mg | [BH4-].[Li+]
reactant | 1-(1,1-dimethylethyl) 4-phenylmethyl 4-(3-hydroxypropyl)-1,4-piperidinedicarboxylate | 2.79 mmol, 1.05 g | OCCCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C21H31NO5
reactant | hydrochloric acid | 2M, 10 mL | Cl | ClH
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran toluene | 20 mL | O1CCCC1.C1(=CC=CC=C1)C
product | 1,1-Dimethylethyl 4-(Hydroxymethyl)-4-(3-hydroxypropyl)-1-piperidinecarboxylate | 563 mg, 74% | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CCCO | C14H27NO4
